US07902181B2
g) (S)-tert-Butyl 2-((S)-2-(6-bromopyridin-3-yl)-1-cyanoethylcarbamoyl)piperidine-1-carboxylate
Triethylamine (3.46 mL) in DCM (5 mL) was stirred under nitrogen and to the solution was added a solution of methyl chlorosulfonylcarbamate (1.658 g) in DCM (5 mL). The mixture was stirred at room temperature for 15 min then a solution of (S)-tert-butyl 2-((S)-1-amino-3-(6-bromopyridin-3-yl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate (1.74 g) in DCM (5 mL) was added. Stirring was continued overnight. The reaction mixture was washed with water then brine, dried over magnesium sulfate, filtered and concentrated in vacuo. Crude product was purified by flash silica chromatography eluting with 40% ethyl acetate in isohexane to give the title compound (1.2 g) as a white solid.

reactant | Triethylamine | 3.46 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chlorosulfonylcarbamate | 1.658 g | ClS(=O)(=O)NC(OC)=O | C2H4ClNO4S
reactant | (S)-tert-butyl 2-((S)-1-amino-3-(6-bromopyridin-3-yl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate | 1.74 g | NC([C@H](CC=1C=NC(=CC1)Br)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C19H27BrN4O4
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-Butyl 2-((S)-2-(6-bromopyridin-3-yl)-1-cyanoethylcarbamoyl)piperidine-1-carboxylate | 1.2 g | BrC1=CC=C(C=N1)C[C@@H](C#N)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C19H25BrN4O3
